US07217716B2
A mixture of 3.2 g of 4-(1-hydroxyimino-ethyl)-piperidine-1-carboxylic acid benzyl ester, 0.4 g of di-tert-butyldicarbonate, 0.15 g of 10% palladium on carbon and 20 mL of THF was stirred under an atmosphere of hydrogen for 2 h. The mixture was filtered and concentrated under reduced pressure. Drying under vacuum gave 4-(1-hydroxyimino-ethyl)-piperidine-1-carboxylic acid tert-butyl ester:

reactant | 4-(1-hydroxyimino-ethyl)-piperidine-1-carboxylic acid benzyl ester | 3.2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(C)=NO | C15H20N2O3
reactant | di-tert-butyldicarbonate | 0.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(1-hydroxyimino-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C)=NO | C12H22N2O3
